US05578627
In 10 ml of 2-propanol is dissolved 3-(2-tert-butoxycarbonylamino-3-hydrazinocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole, and 12.8 ml of a 2-propanol solution (7.5N) of hydrogen chloride is added thereto, after which they are subjected to reaction at 20°-25° C. for 1.5 hours. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the crystals obtained are washed with 5 ml of ethyl acetate and then collected by filtration, to obtain 0.52 g of colorless, crystalline 3-(2-amino-3-hydrazinocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 190°-191° C.

reactant | 3-(2-tert-butoxycarbonylamino-3-hydrazinocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NN | C16H21ClN4O6
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
solvent | 2-propanol | 7.5N, 12.8 ml | CC(C)O | C3H8O
solvent | hydrogen chloride | Cl | ClH
product | 3-(2-amino-3-hydrazinocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NN | InChI=1S/C11H13ClN4O4.ClH/c12-6-1-2-9-8(3-6)10(16-20-9)18-4-7(13)5-19-11(17)15-14;/h1-3,7H,4-5,13-14H2,(H,15,17);1H
